US08530478B2
1-[(3-Methyl-2-pyridinyl)carbonyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine
To a solution of 1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine (Description 1) (100 mg, 0.340 mmol) in DMF (5 ml) was added HOBT.H2O (52.0 mg, 0.340 mmol), HBTU (129 mg, 0.340 mmol), 3-methyl-2-pyridinecarboxylic acid (46.6 mg, 0.340 mmol) and DIPEA (0.178 ml, 1.019 mmol). The reaction mixture was stirred for 2 hours at room temperature. Reaction mixture was transferred to a 100 ml round bottom flask and was reduced to dryness in vacuo. The residue was dissolved in DCM (50 ml) and transferred to a separating funnel then was washed with saturated aq. NaHCO3 solution (5 ml), twice. The organic layer was collected and dried with dried magnesium sulphate. The solid was removed by filtration and the filtrate collected in a 250 ml round bottom flask and reduced to dryness in vacuo. The residue was then dissolved in 1.8 ml 1:1 MeCN/DMSO and purified by MDAP in 2 batches. The fractions containing desired product were combined in a 250 ml round bottom flask and reduced in vacuo to yield the title compound (91 mg).

reactant | 1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 0.340 mmol, 100 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1)(F)F | C11H13F3N2O2S
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.340 mmol, 52.0 mg | O | H2O
reactant | HBTU | 0.340 mmol, 129 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-methyl-2-pyridinecarboxylic acid | 0.340 mmol, 46.6 mg | CC=1C(=NC=CC1)C(=O)O | C7H7NO2
reactant | DIPEA | 1.019 mmol, 0.178 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-[(3-Methyl-2-pyridinyl)carbonyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 91 mg | CC=1C(=NC=CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C18H18F3N3O3S
